US07141355B2
29 g of n-butyl acrylate.
After the completion of the reaction, the solution was cooled to room temperature. To the solution, 3 g of glycidyl methacrylate, 0.1 g of p-methoxyphenol and 0.3 g of tetrabutylammonium bromide were added. The mixture was stirred until these added compounds dissolved completely. The solution thus obtained was heated to 80° C., and an addition reaction was allowed to take place for 16 hours between the carboxyl group in the copolymer and the epoxy group in the glycidyl methacrylate. Thereafter, the solution was cooled to room temperature to obtain an alkali soluble resin (A-1) in the form of resin solution.

reactant | glycidyl methacrylate | 3 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | p-methoxyphenol | 0.1 g | COC1=CC=C(C=C1)O | C7H8O2
catalyst | tetrabutylammonium bromide | 0.3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | n-butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
